US06579886B2
Preparation of [3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate.
To a solution of 0.90 g of [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate in 20 ml of methylene chloride was added 1.5 ml trimethylsilyl iodide. The reaction was stirred at room temperature for six hours, quenched with excess absolute ethanol and evaporated to dryness. The residue was purified by strong cation exchange chromatography eluting with 10-50% methanol in chloroform followed by 50% 2M ammonia/methanol in chloroform to provide the final title compound, [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate.

reactant | [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 0.90 g | C(C)OC(=O)[C@H]1N(C[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1)C(=O)OCC)C(=O)OC | C21H31N3O6
reactant | trimethylsilyl iodide | 1.5 ml | C[Si](C)(C)I | C3H9ISi
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1)C(=O)OCC | C19H29N3O4
